US09301951B2
Intermediate 18b: tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluorophenyl)carbamoyl)benzylthio)propanoate
Into a 50-mL round bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-fluoro-phenyl)isonicotinamide (200 mg, 0.51 mmol, 1.00 equiv) in N,N-dimethylformamide (2 mL), 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid (200 mg, 0.68 mmol, 1.50 equiv), EDC.HCl (0.18 g, 0.94 mmol, 2.00 equiv), and 4-dimethylaminopyridine (58 mg, 0.48 mmol, 1.00 equiv). The resulting solution was stirred for 2 h at room temperature. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:5˜ethyl acetate). The product was obtained as 100 mg (29%) of a yellow solid.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-amino-5-fluoro-phenyl)isonicotinamide | 0.51 mmol, 200 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)F)N)=O)C=CC1)(F)F | C20H15F4N3O
reactant | 3-((3-tert-butoxy-3-oxopropylthio)methyl)benzoic acid | 0.68 mmol, 200 mg, 1.50 equiv | C(C)(C)(C)OC(CCSCC=1C=C(C(=O)O)C=CC1)=O | C15H20O4S
reactant | EDC.HCl | 0.94 mmol, 0.18 g, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.48 mmol, 58 mg, 1.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-(3-((2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)-4-fluorophenyl)carbamoyl)benzylthio)propanoate | 100 mg, 29% | FC(C=1C=C(CNC(=O)C2=CC(=NC=C2)C2=C(C=CC(=C2)F)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1)(F)F | C35H33F4N3O4S
